US06498165B1
Step C: (S)-1-(3-cyanophenyl)ethylamine
(S)-1-(3-cyanophenyl)-1-azidoethane (1.42 mmol) was dissolved in benzene (4 mL), H2O (500 μL) was added followed by triphenylphosphine (2.90 mmol). The resultant mixture was heated to 80° C. for 3.5 h. 25 mL of 2N HCl was added and the mixture washed 3×20 mL diethyl ether. These washes were discarded and the aqueous phase made strongly basic by the addition of 5N NaOH. This basic aqueous phase was then extracted 3×25 mL diethyl ether, these extracts combined, washed with brine, dried (MgSO4) and concentrated under reduced pressure. The residue was used without further purification (150 mg). 1H NMR (500 MHz, CDCl3): δ 7.70 (m, 1H); 7.62 (d, J=7.8 Hz, 1H); 7.54 (m, 1H); 7.44 (t, J=7.8 Hz, 1H); 4.20 (q, J=6.6 Hz, 1H); 1.40 (d, J=6.6 Hz, 3H).

reactant | (S)-1-(3-cyanophenyl)-1-azidoethane | 1.42 mmol | C(#N)C=1C=C(C=CC1)[C@H](C)N=[N+]=[N-] | C9H8N4
reactant | H2O | 500 μL | O | H2O
reactant | triphenylphosphine | 2.90 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | HCl | 2N, 25 mL | Cl | ClH
solvent | benzene | 4 mL | C1=CC=CC=C1 | C6H6
product | (S)-1-(3-cyanophenyl)ethylamine | C(#N)C=1C=C(C=CC1)[C@H](C)N | C9H10N2
